US04659362
Diethylmalonate (4.5 g) was added to a solution of sodium metal (0.65 g) in absolute ethanol (30 ml) and the mixture was heated under reflux with stirring. 1-(2,4,6-Trimethoxy-5-pyrimidylbut-1-en-3-one (6.4 g) was added and the mixture was then boiled under reflux for 2 hours. An aqueous solution of potassium hydroxide (3.5 g in 80 ml of water) was added and the mixture was heated under reflux for a further 5 hours. The solution was cooled and extracted with chloroform (50 ml) and then the aqueous layer was heated to 90° C. and carefully acidified (pH 4.5) with dilute aqueous hydrochloric acid. The resultant precipitate was removed by filtration to give 3-hydroxy-5-(2,4,6-trimethoxy-5-pyrimidyl)cyclohex-2-en-1-one (5.2 g) as a pale yellow crystalline solid, mp 215° C. (dec). Extraction of the filtrate with ethylacetate gave a further 0.7 g of product.

reactant | Diethylmalonate | 4.5 g | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | sodium | 0.65 g | [Na] | Na
reactant | 2,4,6-Trimethoxy-5-pyrimidylbut-1-en-3-one | 6.4 g | COC1=NC(=C(C(=N1)OC)C=CC(C)=O)OC | C11H14N2O4
reactant | potassium hydroxide | 80 ml, 3.5 g | [OH-].[K+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-hydroxy-5-(2,4,6-trimethoxy-5-pyrimidyl)cyclohex-2-en-1-one | 5.2 g | OC1=CC(CC(C1)C=1C(=NC(=NC1OC)OC)OC)=O | C13H16N2O5
